US06620804B2
LDA (1.0 M solution in THF, 310 mL) was added to an anhydrous THF solution (4 mL) containing 2,2′:5′,2″-terselenophene (100 mg) under N2 at −78° C. The solution was stirred at −78° C. for 3 h, anhydrous DMF (1 mL) was added, stirred at −78° C. for 1 h, and slowly warmed to room temperature. The reaction solution was diluted with ethyl acetate (100 mL) and washed with H2O (4×100 mL). The organic layer was separated, dried over MgSO4, filtered, and the solvent was removed under vacuum. The residue was chromatographed over silica gel using CH2Cl2 to afford 2-formyl-5,2′:5′,2″-terselenophene in 75% yield.

reactant | LDA | 1.0 M, 310 mL | [Li+].CC(C)[N-]C(C)C
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | 2,2′:5′,2″-terselenophene | 100 mg | [Se]1C(=CC=C1)C=1[Se]C(=CC1)C=1[Se]C=CC1 | C12H8Se3
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-formyl-5,2′:5′,2″-terselenophene | 75% yield | C(=O)C=1[Se]C(=CC1)C=1[Se]C(=CC1)C=1[Se]C=CC1 | C13H8OSe3
